* G:\Electork Motors\Electronics\simulations\Current Sense Amplifier Based on LM358\Current Sensor.asc
XU1 N006 N005 N003 0 N002 LM358_AB
V1 N003 0 12
V2 N001 0 48
R1 N001 N004 100
R2 N004 0 0.1
R3 N005 N004 3.7k
R4 N002 N005 10k
R5 N006 0 3.7k
R6 N007 N006 10k
V3 N007 0 1.65
.tran 100m
.lib LM358_AB.sub
.backanno
.end
